US07459480B2
To a mixture under Ar of 4-Iodo-N,N-dimethyl-benzamide (237 mg), trimethylsilylacetylene (169 mg), [PdCl2(PPh3)2] (30 mg) and copper(i) iodide (15 mg) is added a degassed mixture of THF (4.5 ml) and diisopropylamine (4.5 ml). After stirring over night at 57° C. and aqueous work up, the organic layer is dried over Na2SO4 and the solvent is evaporated. Flash chromatography (silica gel, CH2Cl2/MeOH/25% NH4OH 97:3:0.3) yields N,N-Dimethyl-4-trimethylsilanylethynyl-benzamide as a brown oil, 1H-NMR (300 MHz): 0.25 (s, 3H); 2.96 (s, 3H); 3.10 (s, 3H); 7.35 (d, J=8.5, 2H); 7.49 (d, J=8.5, 2H).

reactant | 4-Iodo-N,N-dimethyl-benzamide | 237 mg | IC1=CC=C(C(=O)N(C)C)C=C1 | C9H10INO
reactant | trimethylsilylacetylene | 169 mg | C[Si](C)(C)C#C | C5H10Si
reactant | diisopropylamine | 4.5 ml | C(C)(C)NC(C)C | C6H15N
catalyst | PdCl2(PPh3)2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(i) iodide | 15 mg | [Cu]I
solvent | THF | 4.5 ml | C1CCOC1 | C4H8O
product | N,N-Dimethyl-4-trimethylsilanylethynyl-benzamide | CN(C(C1=CC=C(C=C1)C#C[Si](C)(C)C)=O)C | C14H19NOSi
